US04880809
In acetic acid (40 ml) is dissolved 1-(2,3-dibenzyloxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (4.0 g). To the solution is added an acetic acid solution of 30% hydrobromic acid (40 ml). The mixture is stirred at room temperature for one hour. To the reaction mixture is added water and ethyl acetate, and the mixture is shaken. The organic layer is washed with water and an aqueous solution of sodium hydrogencarbonate, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent, acetone:ethyl acetate:hexane:methylene chloride=2:1:1:1) to give 1-(2,3-dihydroxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.25 g). This product is recrystallized from ethyl acetate to give colorless crystals, m.p. 206°-207° C.

reactant | 1-(2,3-dibenzyloxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 4.0 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OCC1=CC=CC=C1 | C40H42N2O7
reactant | hydrobromic acid | 40 ml | Br | BrH
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1-(2,3-dihydroxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.25 g | OC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)O | C26H30N2O7
